US05134128
(2-Naphthyl)propyl tributylstannylmethyl ether
Potassium hydride (315 mg, 7.87 mmol) was added to a solution of 3-(2-naphthyl)propan-1-ol (1.33 g, 7.16 mmol) in tetrahydrofuran (10 ml) at room temperature under argon. After 1/2 hour, a solution of tributylstannylmethyliodide (3.09 g, 7.16 mmol) in tetrahydrofuran (2 ml) was added. After stirring at room temperature for 10 days, the mixture was diluted with hexane and washed thoroughly with water. Evaporation of the dried (magnesium sulphate) organic layer gave an oil, which was flash chromatographed on silica using 5% ethyl ether/petroleum ether. The title ether was obtained as a colorless oil.

reactant | Potassium hydride | 7.87 mmol, 315 mg | [H-].[K+]
reactant | 3-(2-naphthyl)propan-1-ol | 7.16 mmol, 1.33 g | C1=C(C=CC2=CC=CC=C12)CCCO | C13H14O
reactant | tributylstannylmethyliodide | 7.16 mmol, 3.09 g | C(CCC)[Sn](CCCC)(CCCC)CI
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (2-Naphthyl)propyl tributylstannylmethyl ether | C(CCC)[Sn](CCCC)(CCCC)COCCCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C14H15O.3C4H9.Sn/c1-15-10-4-5-12-8-9-13-6-2-3-7-14(13)11-12;3*1-3-4-2;/h2-3,6-9,11H,1,4-5,10H2;3*1,3-4H2,2H3;
